### PR TITLE
[Merged by Bors] - refactor: lemma expressing `ContinuousAt` using a punctured neighbourhood

### PR DESCRIPTION
**Pull request by Komyyy**
---

This lemma is used to prove that the Riemann zeta function is meromorphic in #25597.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/ContinuousOn.lean [hunk 1]
```diff
@@ -284,6 +284,11 @@ alias nhdsWithin_compl_singleton_sup_pure := nhdsNE_sup_pure
 @[simp]
 theorem pure_sup_nhdsNE (a : α) : pure a ⊔ 𝓝[≠] a = 𝓝 a := by rw [← sup_comm, nhdsNE_sup_pure]
 
+lemma continuousAt_iff_punctured_nhds
+    {α β : Type*} [TopologicalSpace α] [TopologicalSpace β] {f : α → β} {a : α} :
```
Comment (grunweg) [inline Mathlib/Topology/ContinuousOn.lean]: Can you re-use the variables \alpha and \beta? In other words, making the part before the colon
`lemma continuousAt_iff_punctured_nhds [TopologicalSpace β] {f : α → β} {a : α} :`
should do.

**Review by grunweg — COMMENTED** [review]
Thanks! Just one small comment.

File: Mathlib/Topology/ContinuousOn.lean [hunk 2]
```diff
@@ -284,6 +284,10 @@ alias nhdsWithin_compl_singleton_sup_pure := nhdsNE_sup_pure
 @[simp]
 theorem pure_sup_nhdsNE (a : α) : pure a ⊔ 𝓝[≠] a = 𝓝 a := by rw [← sup_comm, nhdsNE_sup_pure]
 
+lemma continuousAt_iff_punctured_nhds [TopologicalSpace β] {f : α → β} {a : α} :
+    ContinuousAt f a ↔ Tendsto f (𝓝[≠] a) (𝓝 (f a)) := by
+  simp [ContinuousAt, - pure_sup_nhdsNE, ← pure_sup_nhdsNE a, tendsto_pure_nhds]
```
Comment (grunweg) [inline Mathlib/Topology/ContinuousOn.lean:289]: You're both removing and adding `pure_sup_nhdsNE` as a simp lemma? Can you simplify this?

**Review by grunweg — COMMENTED** [review]
Thanks!
maintainer delegate

File: Mathlib/Topology/ContinuousOn.lean (hunk 2 above)
Comment (Komyyy) [reply Mathlib/Topology/ContinuousOn.lean:289]: This lemma is registered as a `simp` lemma, but in this case, we need to use it in a specialized and reversed form.
If we don’t specialize it, `simp` will try to rewrite both `𝓝 a` and `𝓝 (f a)`, which causes the simplification to fail.
Also, when using a `simp` lemma in a specialized and reversed direction, it’s necessary to exclude the original lemma from the `simp` set.

**Comment by bryangingechen** [comment]
Thanks!
bors r+
